US07674789B2
118a) 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide
To the solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid (1.41 g, 3.19 mmol) in DMF (50 mL) was added 2-aminothiazole (479 mg, 4.78 mmol), HBTU (1.33 g, 3.51 mmol) and Et3N (0.90 mL, 6.38 mmol). The reaction mixture was stirred at room temperature for 18 hours before was concentrated and applied to flash chromatography to afford the titled compound 0.99 g (60%). LC-MS m/z 525 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid | 3.19 mmol, 1.41 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C21H16F2N4O3S
reactant | 2-aminothiazole | 4.78 mmol, 479 mg | NC=1SC=CN1 | C3H4N2S
reactant | HBTU | 3.51 mmol, 1.33 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 6.38 mmol, 0.90 mL | CCN(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | 0.99 g, 60% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)SC)=O | C24H18F2N6O2S2
